US07713994B2
4-tert-butyl-2-(carboxymethyl)benzoic acid
An amount of 26 mL (198 mmol) of Lithium diiopropylamide (Aldrich) is added to a three neck flask cooled to −40° C. To this is added drops wise, a mixture of 4-tert-butyl-2-methyl-benzoic acid 1.9 g (9.9 mmol) and dimethyl carbonate 3.3 mL (39.6 mmol) in 5 mL of tetrahydrofuran, while keeping the temperature at −60° C. After the addition, the temperature is kept between −40° C. to −60° C. for four hours, then brought to 0° C. and quenched with 25 mL of water. The mixture is allowed to stir at room temperature for two hours and acidify to pH 2 with hydrogen chloride, extracted 3× with ethyl acetate, dried over magnesium sulfate and evaporated.

reactant | Lithium | 198 mmol, 26 mL | [Li] | Li
reactant | 4-tert-butyl-2-methyl-benzoic acid | 9.9 mmol, 1.9 g | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)C | C12H16O2
reactant | dimethyl carbonate | 39.6 mmol, 3.3 mL | C(OC)(OC)=O | C3H6O3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-tert-butyl-2-(carboxymethyl)benzoic acid | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)CC(=O)O | C13H16O4
